US05559081
(a) Methyl [2-(4,6-dimethoxypyrimidin-2-yloxy)-6-fluorophenylsulfamoyl]acetate
Methyl (chlorosulfonyl)acetate (13.0 g) in dichloromethane (20 ml) was added dropwise with stirring and cooling to 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-fluoroaniline (20 g) and pyridine (6.3 g) in dichloromethane (120 ml). After stirring for 2 hours, the mixture was allowed to stand at room temperature overnight. Washing with dilute hydrochloric acid and water, drying over magnesium sulfate, and running down, gave an oil which was triturated with ether. The resulting off-white solid was separated by filtration to give 20.4 g of the desired product, mp 111°-114° C.

reactant | Methyl (chlorosulfonyl)acetate | 13.0 g | ClS(=O)(=O)CC(=O)OC | C3H5ClO4S
reactant | 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-fluoroaniline | 20 g | COC1=NC(=NC(=C1)OC)OC1=C(N)C(=CC=C1)F | C12H12FN3O3
reactant | pyridine | 6.3 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | Methyl [2-(4,6-dimethoxypyrimidin-2-yloxy)-6-fluorophenylsulfamoyl]acetate | 20.4 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=CC=C1)F)NS(=O)(=O)CC(=O)OC | C15H16FN3O7S
